US09233979B2
A flask containing 6-chloro-3-iodo-4-methyl-1H-pyrazolo[4,3-c]pyridine (2.06 g, 7.02 mmol) in THF (60 mL) was cooled to 0° C. and potassium hydride (1.126 g, 14.04 mmol) was added. The reaction was stirred for 30 min followed by addition of trityl chloride (2.94 g, 10.53 mmol). The reaction mixture was warmed to room temperature and stirred for 4 h. The reaction was poured into sat. sodium bicarbonate and extracted with EtOAc. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (0-10% DCM/EtOAc) to give 6-chloro-3-iodo-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridine. MS ESI calc'd. for C26H19ClIN3 [M+1]+ 536. found 536.

reactant | 6-chloro-3-iodo-4-methyl-1H-pyrazolo[4,3-c]pyridine | 7.02 mmol, 2.06 g | ClC1=CC2=C(C(=N1)C)C(=NN2)I | C7H5ClIN3
reactant | potassium hydride | 14.04 mmol, 1.126 g | [H-].[K+]
reactant | trityl chloride | 10.53 mmol, 2.94 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 6-chloro-3-iodo-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridine | ClC1=CC2=C(C(=N1)C)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C26H19ClIN3
